US04846882
By the method of Example 3, Step C, 16.0 g (0.052 mole) of 2-[(2-chloro-4-fluoro-5-nitrophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone was hydrogenated in the presence of 0.2 g of platinum oxide in 250 ml of ethanol, yielding 2-[(2-chloro-4-fluoro-5-aminophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone.

reactant | 2-[(2-chloro-4-fluoro-5-nitrophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.052 mole, 16.0 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])CN1OCC(C1=O)(C)C | C12H12ClFN2O4
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 2-[(2-chloro-4-fluoro-5-aminophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | ClC1=C(C=C(C(=C1)F)N)CN1OCC(C1=O)(C)C | C12H14ClFN2O2
